US08022222B2
Using the method of Example 3, Step B, 2-chloro-4-(4-methoxyphenoxy)pyridine (2.952 g, 12.53 mmol), 4-methylthiazol-2-amine (28.47 mL, 11.39 mmol), potassium phosphate (2.417 g, 11.39 mmol), Pd2(dba)3, (0.2607 g, 0.2847 mmol) and 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (0.1812 g, 0.3131 mmol) were reacted in toluene (30 mL) and water (8 mL) to provide 4-(4-methoxyphenoxy)-N-(4-methylthiazol-2-yl)pyridin-2-amine (1.726 g, 44.50% yield) as yellow solid. 1H NMR (CDCl3) δ 8.10 (d, 1H), 6.96 (m, 2H), 6.87 (m, 2H), 6.42 (dd, 1H), 6.26 (d, 1H), 6.18 (d, 1H), 3.80 (s, 3H), 2.15 (s, 3H); Mass spectrum (esi) m/z=314 (100) (+H).

reactant | 2-chloro-4-(4-methoxyphenoxy)pyridine | 12.53 mmol, 2.952 g | ClC1=NC=CC(=C1)OC1=CC=C(C=C1)OC | C12H10ClNO2
reactant | 4-methylthiazol-2-amine | 11.39 mmol, 28.47 mL | CC=1N=C(SC1)N | C4H6N2S
reactant | potassium phosphate | 11.39 mmol, 2.417 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 8 mL | O | H2O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.2847 mmol, 0.2607 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.3131 mmol, 0.1812 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
product | 4-(4-methoxyphenoxy)-N-(4-methylthiazol-2-yl)pyridin-2-amine | 1.726 g, 44.50% yield | COC1=CC=C(OC2=CC(=NC=C2)NC=2SC=C(N2)C)C=C1 | C16H15N3O2S
